US08039450B2
6-Chloro-2-(2,2-difluoro-ethoxy)-nicotinamide (2)
2,2-Difluoroethanol (3.51 mL, 55.5 mmol) was added dropwise over 30 minutes to a suspension of NaH (2.22 g, 60% w/w dispersion in oil) in 1,2-dimethoxyethane (40.0 mL) at 14° C. and stirred for 1 hour. A portion of this solution (25 mL, 35 mmol) was added dropwise over 10 minutes to a solution of 2,6-dichloro-nicotinamide (5.30 g, 27.7 mmol) in dimethylformamide (40 mL) at 14° C. The resultant suspension was stirred for an additional 1 hour at 14° C., diluted with water (600 mL) and extracted with EtOAc (3×400 mL). The organic extracts were combined, dried over Na2SO4, filtered and concentrated to give title compound as a light orange solid (6.39 g, 97%). This was used without further purification.

reactant | 2,2-Difluoroethanol | 55.5 mmol, 3.51 mL | FC(CO)F | C2H4F2O
reactant | NaH | 2.22 g | [H-].[Na+]
reactant | 2,6-dichloro-nicotinamide | 27.7 mmol, 5.30 g | ClC1=C(C(=O)N)C=CC(=N1)Cl | C6H4Cl2N2O
solvent | 1,2-dimethoxyethane | 40.0 mL | COCCOC | C4H10O2
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | 600 mL | O | H2O
product | 6-Chloro-2-(2,2-difluoro-ethoxy)-nicotinamide | 6.39 g, 97% | ClC1=NC(=C(C(=O)N)C=C1)OCC(F)F | C8H7ClF2N2O2
